US04200466
(2) Preparation of 3-nitro-4-(dodecylcarbamoylmethoxy)phenol
In 1 liter of methanol were suspended 275 g of 1-benzoyloxy-3-nitro-4-(dodecylcarbamoylmethoxy)benzene and 50 g of sodium hydroxide were added to the suspension at room temperature under stirring. After stirring for 30 minutes, the reaction solution was poured into 3 liters of ice water to which 150 ml of concentrated hydrochloric acid had been added. Extraction with 3 liters of ethyl acetate was effected and the ethyl acetate layer was washed three times with 3 liters of 5% aqueous sodium bicarbonate solution, dried over sodium sulfate and concentrated. The residual crystal was washed with acetonitrile. The yield was 203 g and the melting point was 150°-151° C. (acetonitrile).

reactant | 1-benzoyloxy-3-nitro-4-(dodecylcarbamoylmethoxy)benzene | 275 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)OCC(NCCCCCCCCCCCC)=O)[N+](=O)[O-] | C27H36N2O6
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | methanol | 1 liter | CO | CH4O
product | 3-nitro-4-(dodecylcarbamoylmethoxy)phenol | [N+](=O)([O-])C=1C=C(C=CC1OCC(NCCCCCCCCCCCC)=O)O | C20H32N2O5
